US09403832B2
5.6.15. Synthesis of 4-[3-(3-Fluoro-2-methoxy-phenyl)-pyrazolo[1,5-a]pyrimidin-5-yl]-piperazine-1-carboxylic acid isopropyl ester
Prepared similarly to the preparation of example 5.6.9 from 4-(3-bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid isopropyl ester (389.9 mg, 1.1 mmol) and 3-fluoro-2-methoxyphenylboronic acid [762287-59-2] (216.2 mg, 1.3 mmol) to afford 153.8 mg of light yellow powder as a free base, mp. 52-53° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.22 (d, J=6.32 Hz, 6 H) 3.49-3.56 (m, 4 H) 3.75 (dd, J=6.44, 4.17 Hz, 4 H) 3.83 (d, J=1.01 Hz, 3 H) 4.82 (spt, J=6.23 Hz, 1H) 6.81 (d, J=8.08 Hz, 1 H) 7.06 (ddd, J=11.37, 8.08, 1.52 Hz, 1 H) 7.16 (td, J=8.08, 5.81 Hz, 1 H) 8.23 (dt, J=7.89, 1.36 Hz, 1 H) 8.42 (s, 1 H). 19F NMR (377 MHz, DMSO-d6) δ ppm −131.42. 13C NMR (100 MHz, DMSO-d6) δ ppm 21.95, 42.83, 44.05, 60.38, 68.16, 97.24, 99.94, 99.98, 112.72, 112.90, 123.22, 124.06, 127.98, 136.39, 143.40, 143.51, 144.25, 144.49, 154.28, 154.63, 155.53, 157.04. LRMS (ESI) m/z 414.1 [(M+H)]+, calc'd for C21H24FN5O3: 413.46.

reactant | 4-(3-bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid isopropyl ester | 1.1 mmol, 389.9 mg | C(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2Br | C14H18BrN5O2
reactant | 3-fluoro-2-methoxyphenylboronic acid | 1.3 mmol, 216.2 mg | FC=1C(=C(C=CC1)B(O)O)OC | C7H8BFO3
product | 4-[3-(3-Fluoro-2-methoxy-phenyl)-pyrazolo[1,5-a]pyrimidin-5-yl]-piperazine-1-carboxylic acid isopropyl ester | 153.8 mg | C(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2C2=C(C(=CC=C2)F)OC | C21H24FN5O3
